US08202873B2
N-{4-[4-(1,5-Dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzyl}-N-methyl-acetamide hydrochloride
Dissolve N-methyl acetamide (187 mg, 2.55 mmol) in dry N,N-dimethylformamide (5 mL) at room temperature under nitrogen. Add sodium hydride (60% dispersion in oil, 102 mg, 2.55 mmol), stir for 1 hr., then add 3′-(4-chloromethyl-phenyl)-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride (300 mg, 0.64 mmol) and sodium iodide (96 mg, 0.64 mmol). Stir the reaction at 50° C. for 20 hr., the quench with water (10 mL). Extract with DCM (4×10 mL) and pass through an IST Phase Separator Frit®. Purify using SCX-2 chromatography, eluting with 3 M ammonia in methanol and further purify using silica gel chromatography (eluting with 5:95 methanol:DCM). Dissolve the clear oil in acetonitrile, and add 2 M aq. HCl and water then lyophilize to give the title compound as light yellow powder (87 mg, 29%). MS (ES): m/z=434 [M+H].

reactant | N-methyl acetamide | 2.55 mmol, 187 mg | CNC(C)=O | C3H7NO
reactant | sodium hydride | 2.55 mmol, 102 mg | [H-].[Na+]
reactant | 3′-(4-chloromethyl-phenyl)-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride | 0.64 mmol, 300 mg | Cl.Cl.ClCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C
reactant | sodium iodide | 0.64 mmol, 96 mg | [I-].[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-{4-[4-(1,5-Dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzyl}-N-methyl-acetamide hydrochloride | 87 mg, 29% | Cl.CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(CN(C(C)=O)C)C=C1 | InChI=1S/C24H31N7O.ClH/c1-18-22(15-27-29(18)4)17-30-11-13-31(14-12-30)24-23(25-9-10-26-24)21-7-5-20(6-8-21)16-28(3)19(2)32;/h5-10,15H,11-14,16-17H2,1-4H3;1H
